US03959322
Add dl-3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-1,3,5(10)-triene (6.80 g) in tetrahydrofuran (200 cc) to liquid ammonia (800 cc) containing tetrahydrofuran (250 cc). Add lithium metal (3.5 g) portionwise and stir the solution for 1.75 hours. Discharge the blue color by dropwise addition of absolute ethanol over 0.25 hours followed by water (2,000 cc). Filter, wash and dry to obtain the dl-3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-2,5(10)-diene (6.5 g), m.p. 176°-182°, λ max. KBr 3.05 μ, 5.90 μ, 6.0 μ, no absorption in the ultraviolet above 220 mμ.

reactant | 3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-1,3,5(10)-triene | 6.80 g | COC1=CC=2C(C[C@@H]3[C@H](CC[C@@]4([C@H](CC[C@@H]34)O)CC)C2C=C1)C | C21H30O2
reactant | ammonia | 800 cc | N | H3N
reactant | lithium | 3.5 g | [Li] | Li
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
solvent | water | 2,000 cc | O | H2O
product | 3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-2,5(10)-diene | 6.5 g | COC=1CC=2C(C[C@@H]3[C@H](CC[C@@]4([C@H](CC[C@@H]34)O)CC)C2CC1)C | C21H32O2
